US07714098B2
2,5-Bis-trimethylstannylthieno[3,2-b]thiophene
A solution of thieno[3,2-b]thiophene (see Fuller et al., J. Chem. Soc. Perkin Trans. 1997, 1, 3465-70) (2.00 g, 14 mmol) is dissolved in anhydrous THF (100 ml) and cooled to −78° C. under nitrogen. A solution of n-butyllithium (12 ml of a 2.5M solution in hexanes, 30 mmol) is added dropwise over 5 min, and the resulting solution is allowed to warm to 20° C. over 30 min and stirred at that temperature for 3 h. The resulting suspension is cooled to −78° C. and trimethyltin chloride (5.9 g, 30 mmol) is added at once as a solid. The reaction is allowed to warm to RT over 4 h and stirred at that temperature for an additional 20 h. The reaction is quenched by the addition of saturated sodium hydrogen carbonate (100 ml). Ethyl acetate (50 ml) is added and the layers separated. The organic layer is washed with sodium carbonate (80 ml of a 2M aqueous solution) and brine (80 ml), dried (sodium sulfate), filtered and concentrated under reduced pressure. The resulting crude product is dry loaded onto a 20 g reverse phase silica column and eluted with acetonitrile. The first fraction is collected, concentrated and recrystallised from acetonitrile to afford the product as white flakes. M/Z cluster centred at 466 (M+). Found C, 30.9; H, 4.4. Calc. for C12H20S2Sn2C, 30.9; H, 4.3. 1H NMR (300 MHz, CDCl3) δ 7.26 (s, 2H), 0.39 (s, 18H). 13C NMR (75 MHz, CDCl3) δ 147.5, 141.2, 126.1, −8.2.

reactant | thieno[3,2-b]thiophene | 14 mmol, 2.00 g | S1C2=C(C=C1)SC=C2 | C6H4S2
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethyltin chloride | 30 mmol, 5.9 g | C[Sn](C)(C)Cl
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,5-Bis-trimethylstannylthieno[3,2-b]thiophene | C[Sn](C1=CC2=C(S1)C=C(S2)[Sn](C)(C)C)(C)C | InChI=1S/C6H2S2.6CH3.2Sn/c1-3-7-6-2-4-8-5(1)6;;;;;;;;/h1-2H;6*1H3;;
